### PR TITLE
[Merged by Bors] - chore: Don't simplify `Odd n` to `¬ Even n`, but the other way around

### PR DESCRIPTION
**Pull request by YaelDillies**
This is simply not simpler

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/Int.lean [hunk 1]
```diff
@@ -97,19 +97,24 @@ lemma odd_iff : Odd n ↔ n % 2 = 1 where
...
+lemma even_or_odd (n : ℤ) : Even n ∨ Odd n := Or.imp_right not_even_iff_odd.1 <| em <| Even n
 
 lemma even_or_odd' (n : ℤ) : ∃ k, n = 2 * k ∨ n = 2 * k + 1 := by
   simpa only [two_mul, exists_or, Odd, Even] using even_or_odd n
 
 lemma even_xor'_odd (n : ℤ) : Xor' (Even n) (Odd n) := by
   cases even_or_odd n with
-  | inl h => exact Or.inl ⟨h, even_iff_not_odd.mp h⟩
-  | inr h => exact Or.inr ⟨h, odd_iff_not_even.mp h⟩
+  | inl h => exact Or.inl ⟨h, not_odd_iff_even.2 h⟩
```
Comment (grunweg) [inline Mathlib/Algebra/Ring/Int.lean:116]: This is minor, and not something I will insist on, but: I do find using `.mp(r)` clearer in such situations.
If we agree to disagree/not fuss about this as this is too minor, then please do not make such such unrelated changes.

**Review by grunweg — COMMENTED** [review]
Thanks for doing this; I agree the new direction of the lemmas makes much more sense.
AIUI, this PR just flips the direction of these simp lemmas (but does not un-simp anything); can you please adjust the PR title to match this?

maintainer merge

File: Mathlib/Algebra/Ring/Int.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Ring/Int.lean:116]: Oh that's just a consequence of the grep I've done. It would be a bit complicated now to automatically find all the places where this change was not

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
